US09119868B2
Step 6: 6-(N-(7-chloro-1-hydroxy-1,3-dihydrobenzo[c][1,2]oxaborol-5-yl)methylsulfonamido)-5-cyclopropyl-2-(4-fluorophenyl)-N-methylbenzofuran-3-carboxamide
A solution of 6-(N-(4-bromo-3-chloro-5-((methoxymethoxy)methyl)phenyl)methylsulfonamido)-5-cyclopropyl-2-(4-fluorophenyl)-N-methylbenzofuran-3-carboxamide (0.25 g, 0.38 mmol), potassium acetate (0.15 g, 1.50 mmol), PdCl2(dppf)-CH2Cl2 adduct (0.031 g, 0.038 mmol), bis(pinacolato)diboron (0.29 g, 1.13 mmol) in 1,4-Dioxane (3.75 ml) was degassed, purged with nitrogen and heated at 90° C. for 15 h. The reaction mixture was diluted with EtOAc and water, filtered through celite, and evaporated. The brown residue was dissolved in THF (5 mL), and 1M HCl (5 mL) and the solution was heated at 70° C. for 4 h. MeOH (2 mL) was added and the solution was heated at 70° C. for another 15 h and diluted with EtOAc and water. The organic layer was washed with brine, dried (Na2SO4), filtered, evaporated and purified by silica gel chromatography (100% EtOAc to 10% MeOH/CH2Cl2) to obtain the title compound as a clear oil. MeOH was added and the precipitate was collected by vacuum filtration, washed with MeOH and dried to afford the title compound (0.0831 g, 39%) as a light tan solid. The filtrate was purified by reverse phase chromatography (5-100% CH3CN/H2O (0.1% formic acid)) to afford an additional batch of the title compound (0.0146 g, 7%) as a white solid. 1H NMR (400 MHz, DMSO-d6) δ ppm 9.17 (s, 1H), 8.50 (d, J=4.68 Hz, 1H), 8.09 (s, 1H), 7.94-8.02 (m, 2H), 7.37-7.46 (m, 3H), 7.28 (d, J=1.56 Hz, 1H), 7.22 (s, 1H), 4.96 (s, 2H), 3.47 (s, 3H), 2.84 (d, J=4.59 Hz, 3H), 2.02-2.14 (m, 1H), 0.98 (br. s., 1H), 0.82 (br. s., 2H), 0.49 (br. s., 1H). LCMS (m/z, ES+)=569.2 (M+H+).

reactant | 6-(N-(4-bromo-3-chloro-5-((methoxymethoxy)methyl)phenyl)methylsulfonamido)-5-cyclopropyl-2-(4-fluorophenyl)-N-methylbenzofuran-3-carboxamide | 0.38 mmol, 0.25 g | BrC1=C(C=C(C=C1COCOC)N(S(=O)(=O)C)C1=CC2=C(C(=C(O2)C2=CC=C(C=C2)F)C(=O)NC)C=C1C1CC1)Cl | C29H27BrClFN2O6S
reactant | potassium acetate | 1.50 mmol, 0.15 g | C(C)(=O)[O-].[K+]
reactant | bis(pinacolato)diboron | 1.13 mmol, 0.29 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
solvent | 1,4-Dioxane | 3.75 ml | O1CCOCC1 | C4H8O2
catalyst | PdCl2(dppf) CH2Cl2 | 0.038 mmol, 0.031 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2].C(Cl)Cl
product | 6-(N-(7-chloro-1-hydroxy-1,3-dihydrobenzo[c][1,2]oxaborol-5-yl)methylsulfonamido)-5-cyclopropyl-2-(4-fluorophenyl)-N-methylbenzofuran-3-carboxamide | ClC1=CC(=CC2=C1B(OC2)O)N(S(=O)(=O)C)C2=CC1=C(C(=C(O1)C1=CC=C(C=C1)F)C(=O)NC)C=C2C2CC2 | C27H23BClFN2O6S
